US06492366B1
3-[(1-{2-[2,4-Dioxo-1,4-dihydro-3(2H)-quinazolinyl]ethyl}-3-pyrrolidinyl)methyl]-1H-indole-5-carbonitrile Hydrochloride
Under an inert atmosphere and at ambient temperature, 47.3 mmol (10 g) of 3-[3-pyrrolidinylmethyl]-1H-indole-5-carbonitrile, 47.3 mmol (9.97 g) of 3-(2-chloroethyl)-2,4-(1H,3H)-quinazolinedione and 47.3 mmol (3.73 g) of sodium hydrogen carbonate are dissolved in 100 ml of dimethylformamide, and stirring is carried out at 100° C. for 6 hours. The reaction mixture is concentrated and the residue is taken up in dichloromethane. The organic phase is washed with water and then with saturated sodium chloride solution, and is dried over magnesium sulphate. Purification is carried out by chromatography on silica using a mixture of dichloromethane/methanol/ammonia 95/5/0.5 as eluant. The compound obtained is converted into the salt by one equivalent of hydrochloric acid in ethanol.

reactant | 3-[3-pyrrolidinylmethyl]-1H-indole-5-carbonitrile | 47.3 mmol, 10 g | N1CC(CC1)CC1=CNC2=CC=C(C=C12)C#N | C14H15N3
reactant | 3-(2-chloroethyl)-2,4-(1H,3H)-quinazolinedione | 47.3 mmol, 9.97 g | ClCCN1C(NC2=CC=CC=C2C1=O)=O | C10H9ClN2O2
reactant | sodium hydrogen carbonate | 47.3 mmol, 3.73 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 3-[(1-{2-[2,4-Dioxo-1,4-dihydro-3(2H)-quinazolinyl]ethyl}-3-pyrrolidinyl)methyl]-1H-indole-5-carbonitrile Hydrochloride | Cl.O=C1NC2=CC=CC=C2C(N1CCN1CC(CC1)CC1=CNC2=CC=C(C=C12)C#N)=O | InChI=1S/C24H23N5O2.ClH/c25-13-16-5-6-21-20(12-16)18(14-26-21)11-17-7-8-28(15-17)9-10-29-23(30)19-3-1-2-4-22(19)27-24(29)31;/h1-6,12,14,17,26H,7-11,15H2,(H,27,31);1H
